US06346534B1
4′-Methoxy-2-aminopropiophenone hydrochloride
4′-Methoxy-2-bromopropiophenone (10 g, 41 mmol.) was dissolved in a mixture of THF (100 mL) and water (20 mL), followed by addition of sodium azide (6.5 g, 0.1 mole). The slurry was vigorously stirred for 5 hours and TLC indicated a completed conversion to 4′-methoxy-2-azidopropiophenone. The aqueous layer was then removed and the organic layer was further diluted with ethanol (200 mL). Concentrated hydrochloride (5 mL, about 60 mmol.) and palladium on carbon (10%, 2 g) were added and hydrogenation was performed using Parr apparatus at 20 psi for 1 hour. The product precipitated during the hydrogenation was re-dissolved by addition of methanol (100 mL). After filtration to remove the catalyst, the solution was concentrated to form a solid. It was stirred with ether (300 mL) and solids were filtered and dried under vacuum at 50° C. overnight to give the titled compound (8.8 g, 100%) MS: 180 (MH+), 162 (M-NH3). Proton NMR (DMSO-d6) δ: 7.96(2H, brs), 7.79(2H, d, J=8.4 Hz), 6.87(2H, d, J=8.4 Hz), 4.49(1H,brs), 1.17(2H, d, J=6.9 Hz).

reactant | 4′-Methoxy-2-bromopropiophenone | 41 mmol, 10 g | COC1=CC=C(C=C1)C(C(C)Br)=O | C10H11BrO2
reactant | sodium azide | 0.1 mole, 6.5 g | [N-]=[N+]=[N-].[Na+]
reactant | 4′-methoxy-2-azidopropiophenone | COC1=CC=C(C=C1)C(C(C)N=[N+]=[N-])=O | C10H11N3O2
reactant | hydrochloride | about 60 mmol, 5 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | ether | 300 mL | CCOCC | C4H10O
product | 4′-Methoxy-2-aminopropiophenone hydrochloride | 8.8 g, 100% | Cl.COC1=CC=C(C=C1)C(C(C)N)=O | InChI=1S/C10H13NO2.ClH/c1-7(11)10(12)8-3-5-9(13-2)6-4-8;/h3-7H,11H2,1-2H3;1H
